US04806549
50% Sodium hydride (4.8 g, 0.1 mol) was washed with petroleum ether and then suspended under nitrogen in dry tetrahydrofuran (50 ml) at -30° C. Ethyl 3-(2-methoxyphenylamino)acrylate (17.4 g, 0.1 mol) in dry tetrahydrofuran (100 ml) was added dropwise to the stirred suspension keeping the temperature below -20° C. Cooling was removed and the mixture was stirred until a deep red colour was obtained. The mixture was re-cooled to -30° C. and hexanoyl chloride (13.8 ml, 0.1 mol) in dry tetrahydrofuran (50 ml) was added dropwise. Cooling was again removed and the mixture was stirred for 2 hours. The mixture was partitioned between 10% hydrochloric acid and dichloromethane then washed with water and brine, dried and evaporated to afford an oil which was chromatographed (silica gel, chloroform) to give ethyl 2-hexanoyl-3-(2-methoxyphenyl- amino)acrylate, (20 g, 62.7%).

reactant | Sodium hydride | 0.1 mol, 4.8 g | [H-].[Na+]
reactant | Ethyl 3-(2-methoxyphenylamino)acrylate | 0.1 mol, 17.4 g | COC1=C(C=CC=C1)NC=CC(=O)OCC | C12H15NO3
reactant | hexanoyl chloride | 0.1 mol, 13.8 ml | C(CCCCC)(=O)Cl | C6H11ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 2-hexanoyl-3-(2-methoxyphenyl- amino)acrylate | 20 g, 62.7% | C(CCCCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C18H25NO4
